US04423213
To a solution of tert-butyl 2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyrate (29.5 g) in acetic acid (59 ml) was added bromine (23.2 g) at 52° C., and the mixture was stirred at 52° to 68° C. for 15 minutes. After removal of the acetic acid from the reaction mixture under reduced pressure, the residual oil was dissolved in ethyl acetate (400 ml). The solution was washed with 10% hydrochloric acid (20 ml) and a saturated aqueous sodium chloride, followed by drying over magnesium sulfate. Removal of the solvent gave 4-bromo-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyric acid (30.7 g).

reactant | tert-butyl 2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyrate | 29.5 g | ClC(COC(=O)CON=C(C(=O)OC(C)(C)C)C(C)=O)(Cl)Cl | C12H16Cl3NO6
reactant | bromine | 23.2 g | BrBr | Br2
solvent | acetic acid | 59 ml | C(C)(=O)O | C2H4O2
product | 4-bromo-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyric acid | 30.7 g | BrCC(C(C(=O)O)=NOCC(=O)OCC(Cl)(Cl)Cl)=O | C8H7BrCl3NO6
